US07572801B2
2-Chloro-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride (36 mg, 155 μmol) was dissolved in DMSO (0.8 ml). Molecular sieves 4Å, 5-phenyl-1-pentanol (80 μl, 465 μmmol) and potassium tert-butylate (35 mg, 310 μmol) were added and the suspension was stirred at 120° C. for 48 h under an argon atmosphere. The molecular sieves were filtered off, the filtrate was poured onto ice water/isopropyl acetate 1/1, the layers were separated and the aqueous layer was extracted two times with isopropyl acetate. The combined extracts were washed with brine, dried over sodium sulfate and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, isopropyl acetate/heptane) to give 5-methyl-2-(5-phenyl-pentyloxy)-3H-pyrido[2,3-d]pyrimidin-4-one (16 mg, 50 μmol; 32%) as yellow crystals. MS: m/e=324.4 [M+H+].

reactant | 2-Chloro-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride | 155 μmol, 36 mg | Cl.ClC=1NC(C2=C(N1)N=CC=C2C)=O
reactant | 5-phenyl-1-pentanol | 80 μl | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | potassium tert-butylate | 310 μmol, 35 mg | CC(C)(C)[O-].[K+]
solvent | DMSO | 0.8 ml | CS(=O)C | C2H6OS
product | 5-methyl-2-(5-phenyl-pentyloxy)-3H-pyrido[2,3-d]pyrimidin-4-one | 50 μmol, 16 mg, 32% | CC1=CC=NC=2N=C(NC(C21)=O)OCCCCCC2=CC=CC=C2 | C19H21N3O2
